US08937071B2
NaOH (56.2 mL, 112 mmol) was added to a solution of 2-(4-bromo-2-fluorophenyl)acetonitrile (4.01 g, 18.74 mmol) in MeOH (30 mL). The mixture was stirred at 100° C. for 12 h. The mixture was cooled to rt. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The resulting 2-(4-bromo-2-fluorophenyl)acetic acid (4.13 g, 17.72 mmol, 95.0% yield) was used to next step without further purification. TLC (PE/EA=1/1, Rf=0.4): 1H NMR (400 MHz, CDCl3) δ 7.22-7.31 (m, 2H), 7.13 (t, J=8.05 Hz, 1H), 3.67 (s, 2H); ES-LCMS m/z 232.9 (M+H).

reactant | NaOH | 112 mmol, 56.2 mL | [OH-].[Na+]
reactant | 2-(4-bromo-2-fluorophenyl)acetonitrile | 18.74 mmol, 4.01 g | BrC1=CC(=C(C=C1)CC#N)F | C8H5BrFN
reactant | MeOH | 30 mL | CO | CH4O
product | 2-(4-bromo-2-fluorophenyl)acetic acid | 17.72 mmol, 4.13 g, 95.0% yield | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
